US07211601B2
(2S,4EZ)-N-(2,1,3-benzothiadiazol-4-yl)-4-(cyanomethylene)-1-(diphenylacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, startling from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 2,1,3-benzothiadiazol-4-amine the title compound was obtained in 42% purity by LC/MS. MS(ESI+): m/z=480.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CC#N)C(=O)O | C12H16N2O4
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2,1,3-benzothiadiazol-4-amine | N=1SN=C2C1C=CC=C2N | C6H5N3S
product | (2S,4EZ)-N-(2,1,3-benzothiadiazol-4-yl)-4-(cyanomethylene)-1-(diphenylacetyl)-2-pyrrolidinecarboxamide | N=1SN=C2C1C=CC=C2NC(=O)[C@H]2N(CC(C2)=CC#N)C(C(C2=CC=CC=C2)C2=CC=CC=C2)=O | C27H21N5O2S
